US06861424B2
To a solution of 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(imidazol-4-yl)ethyl]aminocarbonyl-4-methoxyquinoline (69 mg, 0.14 mmol) in DMF (2 mL) was added t-butyl bromo acetate (0.026 mL, 1.2 eq.), potassium carbonate (30 mg, 1.5 eq), NaI (2.0 mg, 0.1 eq.). The reaction mixture was heated at 50° C. for 1 hour. Evaporation followed by flash column chromatography with 2%-3% MeOH in methylene chloride afforded 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(1-(t-butoxycarbonyl)methyl)imidazol-4-yl) ethyl]-aminocarbonyl-4-methoxyquinoline (25 mg) which was treated with neat trifluoroacetic acid (0.5 mL) for 1.5 hours at ambient temperature. Repeated evaporation of the solvents and treatment with methylene chloride afforded 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(1-(carboxymethyl)imidazol-4-yl)ethyl]-aminocarbonyl-4-methoxyquinoline (27 mg) as a trifluoroacetic acide salt: NMR (DMSO) 1.20 (t, 3), 3.2-3.6 (m, 11), 4.05 (q, 2), 4.1 (s, 3), 5.0 (s, 2), 5.3 (m, 1), 7.45 (s, 1), 7.5 (s, 1), 7.65 (t, 1), 7.8 (t, 1), 8.05 (d, 1), 8.16 (d, 1), 8.95 (s, 1) ppm.

reactant | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(imidazol-4-yl)ethyl]aminocarbonyl-4-methoxyquinoline | 0.14 mmol, 69 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CC=1N=CNC1)NC(=O)C1=NC2=CC=CC=C2C(=C1)OC | C24H28N6O5
reactant | potassium carbonate | 30 mg, 1.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | NaI | 2.0 mg, 0.1 eq. | [Na+].[I-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | aminocarbonyl-4-methoxyquinoline | 25 mg | NC(=O)C1=NC2=CC=CC=C2C(=C1)OC | C11H10N2O2
